US07196203B2
To a solution of (S)-2-[2-(4-hydroxyphenyl)-1-methyl-2-oxo-ethyl]isoindol-1,3-dione (17.7 g) in N,N-dimethyl-formamide (60 mL), 10% palladium on carbon (7.1 g: containing 50% w/w water) was added. The mixture was stirred under hydrogen atmosphere (5.0 atm.) at room temperature for 10 hours. After removing insoluble matter by filtration, the filtrate was diluted with water (400 mL) and extracted with ethyl acetate. Organic layer was washed with brine, sodium bicarbonate solution, brine, 1 mol/L hydrochloric acid and brine, and dried over anhydrous sodium sulfate. After removing the solvent, the resulting residue was recrystallized from ethanol/hexane to obtain (1S,2R)-2-[2-hydroxy-2-(4-hydroxyphenyl)-1-methyl-ethyl]isoindol-1,3-dione (16.8 g : 57% yield, optical purity 100% e.e.).

reactant | (S)-2-[2-(4-hydroxyphenyl)-1-methyl-2-oxo-ethyl]isoindol-1,3-dione | 17.7 g | OC1=CC=C(C=C1)C([C@H](C)N1C(C2=CC=CC=C2C1=O)=O)=O | C17H13NO4
solvent | N,N-dimethyl-formamide | 60 mL | CN(C=O)C | C3H7NO
catalyst | palladium on carbon | 7.1 g | [Pd] | Pd
product | (1S,2R)-2-[2-hydroxy-2-(4-hydroxyphenyl)-1-methyl-ethyl]isoindol-1,3-dione | 16.8 g, 57% yield | O[C@@H]([C@H](C)N1C(C2=CC=CC=C2C1=O)=O)C1=CC=C(C=C1)O | C17H15NO4
